US07384967B2
(2-{-2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-acetic acid methyl ester
To 1-[4-(amino-ethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (0.03 g, 0.08 mmol) in 10 mL DCM was added methyl bromoacetate (0.01 g, 0.08 mmol) followed by Et3N (0.008 g, 0.08 mmol). After stirring at room temperature overnight, reation was concentrated and purified by flash chromatography on silica gel with 5% MeOH/EtOAc to obtain the product in 50% yield.

reactant | 1-[4-(amino-ethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.08 mmol, 0.03 g | NCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C19H24N4O2S
reactant | methyl bromoacetate | 0.08 mmol, 0.01 g | BrCC(=O)OC | C3H5BrO2
reactant | Et3N | 0.08 mmol, 0.008 g | CCN(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-{-2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl amino)-acetic acid methyl ester | 50% yield | COC(CNCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C22H28N4O4S
